US08183289B2
Methyl 2-(4-hydroxy-3-methoxyphenyl)acetate (0.204 g, 1.04 mmol), N-(4-chlorophenethyl)-4-iodobenzamide (0.200 g, 0.519 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.00956 g, 0.0519 mmol), Cu(I)Cl (0.0257 g, 0.259 mmol) and Cs2CO3 (0.338 g, 1.04 mmol) were stirred together in NMP (2 ml) for 1 hour. The reaction was loaded onto silica gel and the product eluted using a gradient of 5% ethyl acetate/hexanes to 100% ethyl acetate/hexanes. Isolated methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methoxyphenyl)acetate (0.105 g, 44.6% yield) as a yellow solid.

reactant | Methyl 2-(4-hydroxy-3-methoxyphenyl)acetate | 1.04 mmol, 0.204 g | OC1=C(C=C(C=C1)CC(=O)OC)OC | C10H12O4
reactant | N-(4-chlorophenethyl)-4-iodobenzamide | 0.519 mmol, 0.200 g | ClC1=CC=C(CCNC(C2=CC=C(C=C2)I)=O)C=C1 | C15H13ClINO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.0519 mmol, 0.00956 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | Cs2CO3 | 1.04 mmol, 0.338 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-methoxyphenyl)acetate | 0.105 g, 44.6% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC)OC)C=C2)C=C1 | C25H24ClNO5
